US06384080B1
To a solution of (S)-5-cyano-N-(3,4-dimethoxybenzyl)-2-(2-hydroxy-1-methylethylamino)benzamide (177 mg) in dimethylformamide (4 mL) was added sodium hydride (19.2 mg) at ambient temperature. After stirring for 20 minutes, 4-fluorobenzonitrile (63.8 mg) was added to the mixture. After stirring for an hour at 60° C., the mixture was diluted with ethyl acetate and washed successively with water and brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was subjected to a silica gel column chromatography eluting with the mixture of chloroform and ethyl acetate (9:1) to give (S)-5-cyano-2-[2-(4-cyanophenoxy)-1-methylethylamino]-N-(3,4-dimethoxybenzyl)benzamide (76 mg) as a solid substance.

reactant | (S)-5-cyano-N-(3,4-dimethoxybenzyl)-2-(2-hydroxy-1-methylethylamino)benzamide | 177 mg | C(#N)C=1C=CC(=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C1)N[C@H](CO)C | C20H23N3O4
reactant | sodium hydride | 19.2 mg | [H-].[Na+]
reactant | 4-fluorobenzonitrile | 63.8 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-5-cyano-2-[2-(4-cyanophenoxy)-1-methylethylamino]-N-(3,4-dimethoxybenzyl)benzamide | 76 mg | C(#N)C=1C=CC(=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C1)N[C@H](COC1=CC=C(C=C1)C#N)C | C27H26N4O4
